US08084477B2
Step B. (R)-5,5,5-Trifluoro-2-((R)-1-phenylethylamino)pentanamide hydrochloride
To a solution of 5,5,5-trifluoro-2-(1-phenylethylamino)pentanenitrile (18.0 g, 70.31 mmol, 4:1 mixture of diastereomers) in CH2Cl2 (100 mL) was added H2SO4 (100 mL). The reaction was stirred at room temperature for 22 h, poured onto crushed ice and neutralized with NH4OH. The mixture was extracted with EtOAc (3×500 mL). The combined organic layer was dried over Na2SO4 and concentrated under vacuum to provide the free base of the title compound as a mixture of diastereomers (18.94 g, 98%) as an orange oil: 1H NMR (300 MHz, CDCl3) δ 7.40-7.18 (m, 5H), 6.78 (br s, 0.23H), 6.50 (br s, 0.77H), 6.00 (br s, 0.77H), 5.81 (br s, 0.23H), 3.82 (q, J=6.5 Hz, 0.23H), 3.70 (q, J=6.5 Hz, 0.77H), 3.14 (t, J=6.0 Hz, 0.23H), 2.86 (t, J=7.0 Hz, 0.77H), 2.35-1.86 (m, 2H), 1.84-1.64 (m, 2H), 1.39 (d, J=6.5 Hz, 0.69H), 1.35 (d, J=6.5 Hz, 2.31H); ESI MS m/z 275 [C13H17F3N2O+H].

reactant | 5,5,5-trifluoro-2-(1-phenylethylamino)pentanenitrile | 70.31 mmol, 18.0 g | FC(CCC(C#N)NC(C)C1=CC=CC=C1)(F)F | C13H15F3N2
reactant | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
reactant | NH4OH | [NH4+].[OH-]
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-5,5,5-Trifluoro-2-((R)-1-phenylethylamino)pentanamide hydrochloride | Cl.FC(CC[C@H](C(=O)N)N[C@H](C)C1=CC=CC=C1)(F)F | InChI=1S/C13H17F3N2O.ClH/c1-9(10-5-3-2-4-6-10)18-11(12(17)19)7-8-13(14,15)16;/h2-6,9,11,18H,7-8H2,1H3,(H2,17,19);1H/t9-,11-;/m1./s1
